US08476300B2
6-hydroxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl trifluoromethanesulfonate
Add a solution of boron tribromide in dichloromethane (4 M, 5 mL, 20.00 mmol) to a solution of 6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl trifluoromethanesulfonate hydrochloride (2.8 g, 4.98 mmol) and dichloromethane (100 ml). Stir the reaction for 2 hours and then quench with aqueous sodium bicarbonate. Extract the mixture 3 times with dichloromethane. Combine the extracts, dry over sodium sulfate, filter and concentrate to obtain the title compound (2.4 g, 4.68 mmol).

reactant | boron tribromide | B(Br)(Br)Br | BBr3
reactant | 6-methoxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl trifluoromethanesulfonate hydrochloride | 4.98 mmol, 2.8 g | Cl.FC(S(=O)(=O)OC1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(C=C1)OCCN1CCCCC1)(F)F
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20.00 mmol, 4 M, 5 mL | ClCCl | CH2Cl2
product | 6-hydroxy-1-(4-(2-(piperidin-1-yl)ethoxy)phenoxy)naphthalen-2-yl trifluoromethanesulfonate | 4.68 mmol, 2.4 g | FC(S(=O)(=O)OC1=C(C2=CC=C(C=C2C=C1)O)OC1=CC=C(C=C1)OCCN1CCCCC1)(F)F | C24H24F3NO6S
